US05364871
Phosphorus oxychloride (7.8 ml) was dropwise added to a mixture of 2-acetyl-6-hydroxymethylpyridine (10.0 g) and N,N-dimethylformamide (15.4 ml) in ethyl acetate (100 ml) under ice-cooling with stirring and the mixture was stirred at the same temperature for 3 hours. The reaction mixture was added to water and adjusted to pH 7.5 with potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated to give 2-acetyl-6-chloromethylpyridine (10.85 g) as an oil.

reactant | Phosphorus oxychloride | 7.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-acetyl-6-hydroxymethylpyridine | 10.0 g | C(C)(=O)C1=NC(=CC=C1)CO | C8H9NO2
reactant | N,N-dimethylformamide | 15.4 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-acetyl-6-chloromethylpyridine | 10.85 g | C(C)(=O)C1=NC(=CC=C1)CCl | C8H8ClNO
